US07902252B2
2.96. Synthesis of 4-(biphenyl-4-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (81)
The title compound was synthesized from methyl 4-(biphenyl-4-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (118 mg, 0.36 mmol) and lithium hydroxide monohydrate (60 mg, 1.42 mmol in 5 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (15 mL) was used. The resulting product was purified by flash chromatography (Isco CombiFlash) eluting with a gradient of 0-70% EtOAc/Heptane to give the title compound: 60 mg, 53%. 1H NMR (400 MHz, ACETONE-d6) δ ppm 2.06-2.18 (m, 1H), 2.48-2.62 (m, 1H), 2.62-2.75 (m, 2H), 2.78-2.89 (m, 2H), 3.28-3.37 (m, 1H), 6.37 (d, J=1.76 Hz, 1H), 7.29-7.37 (m, 3H), 7.41-7.48 (m, 2H), 7.57-7.63 (m, 2H), 7.63-7.69 (m, 2H), 10.38 (s, 1H); LCMS-MS (ESI−) 316.2 (M−H); HPLC (UV=99.4%), (ELSD=100%).

reactant | methyl 4-(biphenyl-4-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.36 mmol, 118 mg | C1(=CC=C(C=C1)CC1CCC=2NC(=CC21)C(=O)OC)C2=CC=CC=C2 | C22H21NO2
reactant | lithium hydroxide monohydrate | 1.42 mmol, 5 mL, 60 mg | O.[OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(biphenyl-4-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | C1(=CC=C(C=C1)CC1CCC=2NC(=CC21)C(=O)O)C2=CC=CC=C2 | C21H19NO2
